US06548448B2
Commercially available pentamethylenebis(magnesium bromide) (37 ml, 0.5 M in THF, 18.5 mmol) was cooled in an ice bath. A solution of 3.16 g (18.5 mmol) of phenyldimethylchlorosilane in roughly 7 ml of THF was added. The reaction mixture was stirred at 5° C. for 15 minutes then at room temperature for 35 minutes, then recooled to 5° C. 2,3-Dibromopropene (3.7 g, 18.5 mmol) in roughly 5 ml of THF was added to the reaction mixture, which was held at 5° C. for 5 minutes, then warmed to room temperature and stirred overnight. The reaction mixture was quenched with water. Ether and a small amount of IN HCl was added. The phases were separated, and the organic phase was washed with water and brine, dried over magnesium chloride and stripped. Column chromatography gave 1.47 g of 2-bromo-8-(phenyldimethylsilyl)-oct-1-ene as a colorless oil.

reactant | pentamethylenebis(magnesium bromide) | 18.5 mmol, 0.5 M, 37 ml | [CH2-]CCC[CH2-].[Mg+2].[Mg+2].[Br-].[Br-]
reactant | phenyldimethylchlorosilane | 18.5 mmol, 3.16 g | C1(=CC=CC=C1)[Si](Cl)(C)C | C8H11ClSi
reactant | 2,3-Dibromopropene | 18.5 mmol, 3.7 g | BrC(=C)CBr | C3H4Br2
solvent | THF | roughly 7 ml | C1CCOC1 | C4H8O
solvent | THF | roughly 5 ml | C1CCOC1 | C4H8O
product | 2-bromo-8-(phenyldimethylsilyl)-oct-1-ene | 1.47 g | BrC(=C)CCCCCC[Si](C)(C)C1=CC=CC=C1 | C16H25BrSi
